US08022062B2
7-Chloro-6-(2-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-(2-bromoethyl)-pyridine hydrobromide to give, after deprotection using a method similar to the General Procedure 1-4, the title compound. MS (ES+) m/z 319 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-(2-bromoethyl)-pyridine hydrobromide | Br.BrCCC1=NC=CC=C1
product | 7-Chloro-6-(2-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCCC1=NC=CC=C1 | InChI=1S/C17H19ClN2S.ClH/c18-16-5-4-13-6-10-19-11-7-15(13)17(16)21-12-8-14-3-1-2-9-20-14;/h1-5,9,19H,6-8,10-12H2;1H
